US08383644B2
Step 7. Preparation of (S)-7-[(S)-2-(4′-Cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6-carboxylic acid tert-butyl ester
To a stirring solution of (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester (146 mg), HBTU (95 mg) and DIEA (0.088 mL) in DMF (5 mL), was added (S)-2-amino-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester (79 mg). After 4 hours a sufficient amount of water was added and the mixture extracted with ethyl acetate. The organic layer was washed with 1 N HCl, saturated NaHCO3 and brine, and dried over sodium sulfate. The solvent was removed under reduced pressure to provide the crude amide. The residue was purified by column chromatography on silica gel (with an eluent of hexanes/ethyl acetate from 80:20 to 60:40) to give the product (169 mg).

reactant | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester | 146 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3O[C@H](CNC3=CC2CC1C(=O)O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C30H30Cl2N2O6
reactant | HBTU | 95 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.088 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-amino-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | 79 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)N)=O | C17H16N2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-7-[(S)-2-(4′-Cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6-carboxylic acid tert-butyl ester | 169 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3O[C@H](CNC3=CC2CC1C(N[C@@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)C(=O)OC)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C47H44Cl2N4O7
